US07485283B2
Synthesis of (4-benzyloxy-3,5-dimethoxy-phenyl)-acetic acid methyl ester
To a solution of (4-hydroxy-3,5-dimethoxy-phenyl)-acetic acid methyl ester (4.1 g, 18.1 mmol) in acetone (50 mL) was added potassium carbonate (1.39 g, 10.1 mmol) benzyl chloride (3.58 g, 28.28 mmol) and potassium iodide (catalytic amount). After completion of addition the reaction mixture was heated to reflux overnight. The next day, the reaction was cooled down to room temperature and diluted with water. The aqueous layer was extracted with ethyl acetate. All combined organic layers were dried over sodium sulfate, filtered, and concentrated. The crude material was purified using silica gel chromatography (gradient 100% pentane to 100% ethyl acetate) to afford the desired compound (1.5 g, 26%).

reactant | (4-hydroxy-3,5-dimethoxy-phenyl)-acetic acid methyl ester | 18.1 mmol, 4.1 g | COC(CC1=CC(=C(C(=C1)OC)O)OC)=O | C11H14O5
reactant | potassium carbonate | 10.1 mmol, 1.39 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | (4-benzyloxy-3,5-dimethoxy-phenyl)-acetic acid methyl ester | 1.5 g, 26% | COC(CC1=CC(=C(C(=C1)OC)OCC1=CC=CC=C1)OC)=O | C18H20O5
